US05256704
A mixture of 24.99 (0.10 mole) dibutyltin oxide, 21.6g (0.20 mole) 3-mercapto-1,2-propanediol and 300 ml toluene were charged to a round-bottom glass reaction flask fitted with a mechanical stirrer, thermocouple and a reflux condenser with a Dean-Stark water trap. The mixture was heated to reflux temperature, with agitation, and continued at reflux until a clear homogeneous solution formed and all water of reaction was collected in the trap. Removal of the toluene (flash evaporator) yielded 44.5g (99.5% yield) of dibutyltin-bis-(2,3-dihydroxypropylmercaptide), a straw-colored viscous liquid.

reactant | dibutyltin oxide | C(CCC)[Sn](CCCC)=O
reactant | 3-mercapto-1,2-propanediol | 0.20 mole, 21.6g | SCC(CO)O | C3H8O2S
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | dibutyltin | 44.5g, 99.5% yield | C(CCC)[Sn]CCCC | InChI=1S/2C4H9.Sn/c2*1-3-4-2;/h2*1,3-4H2,2H3;
